US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]imidazolidin-4-one
Into a 25-mL round-bottom flask, was placed 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoic acid (200 mg, 0.38 mmol, 1.00 equiv), N,N-dimethylformamide (10 mL), HATU (292 mg, 0.77 mmol, 2.00 equiv), DIEA (99 mg, 0.77 mmol, 1.94 equiv), imidazolidin-4-one hydrochloride (94 mg, 0.77 mmol, 1.98 equiv). The resulting solution was stirred for 2 h at r t. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 2×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×20 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a TLC plate with ethyl acetate/petroleum ether (2:1). This resulted in 150 mg (60%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]imidazolidin-4-one as yellow oil.

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoic acid | 0.38 mmol, 200 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)CC(F)(F)F)C(F)(F)F | C20H11ClF9NO3
reactant | HATU | 0.77 mmol, 292 mg, 2.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.77 mmol, 99 mg, 1.94 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | imidazolidin-4-one hydrochloride | 0.77 mmol, 94 mg, 1.98 equiv | Cl.N1CNC(C1)=O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)phenyl)carbonyl]imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)CC(F)(F)F)C(F)(F)F | C23H15ClF9N3O3
